Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
cervical stenosis
 
Major Surgical or Invasive Procedure:
___- ACDF C5-6
___- I and D neck wound

 
History of Present Illness:
Patient with C5-6 disc herniation found after fall that was 
unwitnessed and admitted for traumatic SAH at that time. returns 
for elective C5-6 ACDF
 
Past Medical History:
HLD
asthma
anemia
elevated ESR or unclear significance
temporal arteritis  

All: PCN
 
Social History:
___
Family History:
Negative for neurologic conditions
 
Physical Exam:
On Discharge:
A&Ox3, MAE ___, incision cd&i with steri strips. 
 
Pertinent Results:
___ C-spine AP/Lateral X-rays: 
Degenerative and postsurgical changes.
 
Brief Hospital Course:
Patient was admitted electively for a C5-6 ACDF on ___ 
Intraoperatively the pt sustained soft palate lacerations from 
traumatic intubation, ENT was called and placed a stitch. The 
remained of the procedure was without complication and she was 
extubated in the operating room. She was transferred to the PACU 
post-operatively She then was trasnferred to the floor for 
further monitoring and care.
On ___, Temp 102.8 overnight- ordered for CXR & UA/UC. 
mobilizing, added viscous lidocaine and anesthetic throat spray. 

___, seen in AM and throats swelling slightly increased, some 
difficulty breathing, decision made to go to OR for I and D. 
surgery went well and remained intubated per anesthesia and 
transferred to ICU for furhter care. 
___, the patient remained neurologically and hemodynamically 
stable. She was transferred to the floor from the ICU on the 
___. She was started on a regular diet and tolerated it well. A 
speech and swallow consult was obtained for recommendations 
regarding diet change ___ soft palate injury. 
On ___, the patient remained stable. Speech and swallow 
recommended soft diet with thin liquids. The patient expressed 
reediness to be discharge home. She was discharged home in 
stable conditions. She is ambulating independently without 
difficulty. 

 
Medications on Admission:
1. Acetaminophen 650 mg PO TID 
2. DULoxetine 90 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth every 8 hours Disp 
#*90 Capsule Refills:*0
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. PredniSONE 4 mg PO DAILY 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
Please do not take more than 4 grams in 24hrs.   
2.  Dexamethasone 4 mg PO DAILY Duration: 1 Dose 
1 more dose tonight then stop 
RX *dexamethasone 4 mg 1 tablet(s) by mouth Daily Disp #*1 
Tablet Refills:*0 
3.  Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 ML by mouth four times a day 
Refills:*0 
4.  DULoxetine 90 mg PO DAILY  
5.  Gabapentin 300 mg PO TID  
6.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezing  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervical stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery

Your incision is closed with dissolvable sutures underneath the 
skin and steri strips. You do not need suture removal. Do not 
remove your steri strips, let them fall off.
Please keep your incision dry for 72 hours after surgery.
Please avoid swimming for two weeks.
Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
We recommend that you avoid heavy lifting, running, climbing, or 
other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
No contact sports until cleared by your neurosurgeon. 
Do NOT smoke. Smoking can affect your healing and fusion.

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
You may use Acetaminophen (Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.
It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___